US06437147B1
At 0° C. 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (2.90 g, 15.29 mmol) was added to a solution of 4-(trifluoromethyl)cyclohexanecarboxylic acid (3.0 g, 15.29 mmol) and 1-hydroxybenzotriazole (2.1 g, 15.29 mmol) in DMF (10 ml) and DCM (10 ml). The reaction mixture was stirred for 20 min at 0° C. A saturated solution of ammonia in methanol (17 ml) was added. The reaction mixture was stirred for 16 hours, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a 10% aqueous solution of sodium hydrogen sulphate (100 ml). The aqueous phase was extracted with ethyl acetate (2×80 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica, using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 1.99 g of 4-trifluoromethylcyclohexanecarboxylic acid amide.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 15.29 mmol, 2.90 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-(trifluoromethyl)cyclohexanecarboxylic acid | 15.29 mmol, 3.0 g | FC(C1CCC(CC1)C(=O)O)(F)F | C8H11F3O2
reactant | 1-hydroxybenzotriazole | 15.29 mmol, 2.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | N | H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 17 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-trifluoromethylcyclohexanecarboxylic acid amide | 1.99 g | FC(C1CCC(CC1)C(=O)N)(F)F | C8H12F3NO
